US06002008
6-Methoxy-4-(2-methylsulfanyl-phenylamino)-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile
The method of Example 312 was used as well as 0.3 g of 4-chloro-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile, 0.14 ml of 2-(methyl mercapto) aniline, 0.1 g of pyridine hydrochloride and 4.0 ml of 2-ethoxy ethanol. This afforded an oil which was purified by silica gel flash chromatography [methylene chloride/methanol (96:4) ] to give 0.16 g of the title compound as an off white solid, mp 179-180 C; mass spectrum (ES, m/e):M+H465.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.3 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N | C18H20ClN3O3
reactant | 2-(methyl mercapto) aniline | 0.14 ml | CSC1=C(N)C=CC=C1 | C7H9NS
reactant | pyridine hydrochloride | 0.1 g | Cl.N1=CC=CC=C1
reactant | 2-ethoxy ethanol | 4.0 ml | C(C)OCCO | C4H10O2
product | 6-Methoxy-4-(2-methylsulfanyl-phenylamino)-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.16 g | COC=1C=C2C(=C(C=NC2=CC1OCCCN1CCOCC1)C#N)NC1=C(C=CC=C1)SC | C25H28N4O3S
